US07259177B2
tert-Butyl 2-(cis-3-hydroxycyclohexylmethoxy)pentanoate
200 mg of tert-butyl (cis-3-methoxymethoxycyclohexylmethoxy)acetate are dissolved in 5 ml of abs. tetrahydrofuran and cooled to −78° C. (dry ice/acetone bath). 0.7 ml of a 2M lithium diisopropylamide solution in tetrahydrofuran/hexane is then added dropwise. The solution is initially stirred at −78° C. and then warmed to 0° C. (ice bath) and stirred at this temperature for 20 min. 600 mg of propyl iodide in 2 ml of tetrahydrofuran are then added, and the solution is stirred at 0° C. for a further 2.5 h. 15 ml of a saturated ammonium chloride solution are added, and the phases are separated. The aqueous phase is extracted with methyl tert-butyl ether. The combined organic phases are dried over MgSO4 and concentrated (yield: 240 mg of crude product). The residue is taken up in 2 ml of tetrahydrofuran, 0.5 ml of conc. HCl is added and the mixture is stirred at room temperature for 18 h. The mixture is diluted with water and methyl tert-butyl ether, the phases are separated and the aqueous phase is extracted with methyl tert-butyl ether. The combined organic phases are washed with saturated NaCl solution, dried over MgSO4 and concentrated. This gives 130 mg of tert-butyl 2-(cis-3-hydroxycyclohexylmethoxy)-pentanoate as a yellow oil. NMR (CDCl3) diastereomer mixture: 3.55-3.67 (m, 2H), 3.41-3.48 (m, 1H), 3.07-3.18 (m, 1H), 1.91-2.13 (m, 2H), 1.11-1.82 (m, 14H), 1.48 (s, 9H).

reactant | tert-butyl (cis-3-methoxymethoxycyclohexylmethoxy)acetate | 200 mg | COCO[C@H]1C[C@H](CCC1)COCC(=O)OC(C)(C)C | C15H28O5
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | lithium diisopropylamide | 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | propyl iodide | 600 mg | C(CC)I | C3H7I
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran hexane | O1CCCC1.CCCCCC
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | tert-Butyl 2-(cis-3-hydroxycyclohexylmethoxy)pentanoate | O[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)CCC | C16H30O4
